US07968570B2
5-Methoxy-2,3-dihydro-isoindol-1-one
2-Bromomethyl-4-methoxy-benzoic acid methyl ester, 2% ammonia in MeOH (4 mL) and NH4OH (1.5 mL) were stirred for at 18 hours at room temperature. The reaction was partitioned between CH2Cl2 and water and the organic layer was washed with brine and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure to afford a white solid (151 mg). 1H NMR (300 MHz, CDCl3): δ 7.80 (d, 2H), 7.02 (dd, 1H), 6.97 (s, 1H), 4.44 (s, 2H), 3.90 (s, 3H).

reactant | 2-Bromomethyl-4-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
reactant | ammonia | N | H3N
solvent | MeOH | 4 mL | CO | CH4O
solvent | NH4OH | 1.5 mL | [NH4+].[OH-]
product | 5-Methoxy-2,3-dihydro-isoindol-1-one | 151 mg | COC=1C=C2CNC(C2=CC1)=O | C9H9NO2
